US09278983B2
A mixture of zinc cyanide (0.47 g), tetrakis(triphenylphosphine)palladium (0.12 g), 6-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (0.70 g), and N-methylpyrrolidone (hereinafter referred to as NMP) (4 ml) was stirred at 90° C. for 2 hours. Into the reaction mixture cooled to room temperature, saturated aqueous ammonium chloride solution was poured, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.59 g of 6-cyano-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 48).

reactant | 6-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 0.70 g | BrC=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C15H14BrN3S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | NMP | CN1C(CCC1)=O | C5H9NO
catalyst | zinc cyanide | 0.47 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-cyano-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 0.59 g | C(#N)C=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C16H14N4S
